US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidine (9.22 g) in tetrahydrofuran (100 ml) was added potassium t-butoxide (3.54 g) with stirring under ice-cooling and then added dropwise methyl iodide (2.80 ml) at the same condition. The mixture was stirred at the same temperature for 1 hour. Ethyl acetate (100 ml) was added to a reaction mixture. The solution was washed successively with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (200 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give a residue. To a solution of the residue (7.79 g) in methanol (100 ml) was added conc. hydrochloric acid (4.60 ml) with stirring at ambient temperature. The mixture was allowed to stand overnight. To the solution was added 28% sodium methoxide-methanol solution (10.6 ml) with stirring under ice-cooling. The resulting precipitates were filtered off and the filtrate was evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (200 g) eluting with a mixture of chloroform and methanol (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{2-(5-methoxymethylimidazol-1-yl) ethyl}pyrrolidine (3.63 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidine | 9.22 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCN1C=NC=C1CO | C20H35N3O4Si
reactant | potassium t-butoxide | 3.54 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 2.80 ml | CI | CH3I
reactant | hydrochloric acid | 4.60 ml | Cl | ClH
reactant | sodium methoxide methanol | 10.6 ml | C[O-].[Na+].CO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-{2-(5-methoxymethylimidazol-1-yl) ethyl}pyrrolidine | 3.63 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCN1C=NC=C1COC | C15H23N3O4
